US08809453B2
B. Methylation of −2-benzyloxypropane
1,3-diPEGoxy-2-benzyloxypropane [MW poly(ethylene glycol) (PEG)=9 kDa] (5.0 g, 0.55 mmoles) from Step A was placed in a two-necked round bottom flask and dissolved in 150 ml of toluene. The flask was fitted with a septum and a Dean-Stark trap and the compound was azeotropically dried under an inert atmosphere. The trap was replaced with a reflux condenser and the temperature of the flask was kept at 45° C. by placing the flask in a constant temperature oil bath. Methyl toluenesulfonate (1.62 ml, 5.4 mmoles) and 2.8 ml of potassium t-butoxide solution (1.0 M in THF) was added and the reaction stirred for 3 hours. Methyl toluenesulfonate (0.81 ml) and 1.4 ml of potassium t-butoxide solution were then added and the reaction was stirred for an additional 3 hours. The flask was removed from the oil bath and cooled to room temperature. The solution was transferred to a single-necked round bottom flask and the solvent was removed by rotary evaporation. The residue was dissolved in 5 ml of methylene chloride and precipitated by the addition of 50 ml of diethyl ether. The product was collected by filtration and dried under vacuum.

reactant | Methyl toluenesulfonate | 5.4 mmoles, 1.62 ml | C=1(C(=CC=CC1)S(=O)(=O)OC)C | C8H10O3S
reactant | potassium t-butoxide | 1.0 M, 2.8 ml | CC(C)([O-])C.[K+]
reactant | Methyl toluenesulfonate | 0.81 ml | C=1(C(=CC=CC1)S(=O)(=O)OC)C | C8H10O3S
reactant | potassium t-butoxide | 1.4 ml | CC(C)([O-])C.[K+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyloxypropane | C(C1=CC=CC=C1)OC(C)C | C10H14O
